US05439917
2,3-Dimethyl-7- (m-methoxyphenacyl)pyrrolo[2,3-b]pyridine.
The title compound was prepared on a 0.9 mmol scale fr 2,3-dimethylpyrrolo[2,3-b]pyridine and m-methoxyphenacyl bromide in the same manner as described in example 27 giving 228 mg (70%) pure product as the hydrobromide.

reactant | 2,3-dimethylpyrrolo[2,3-b]pyridine | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | m-methoxyphenacyl bromide | COC=1C=C(C(CBr)=O)C=CC1 | C9H9BrO2
reactant | hydrobromide | Br | BrH
product | 2,3-Dimethyl-7- (m-methoxyphenacyl)pyrrolo[2,3-b]pyridine | CC1=C(C=2C(N(C=CC2)CC(=O)C2=CC(=CC=C2)OC)=N1)C | C18H18N2O2
